US06995263B2
In analogy to the procedure described in example 1 h], 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine was reacted with (5-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 1 c]) in the presence of cesium carbonate to give {5-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester, which was subsequently treated with lithium hydroxide in analogy to the procedure described in example 1 i] to yield {5-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid.

reactant | 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H12ClF3N2
reactant | (5-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC(=CC=C12)O)=O | C12H13NO3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
product | {5-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC(=CC=C12)OCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C27H24F3N3O3
